US07622466B2
c) 5-(1-Cyclopropyl-piperidin-4-yloxy)-2-(morpholine-4-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester
To the solution of 73 mg (0.5 mmol) N-cyclopropyl-4-piperidinol in 2 ml tetrahydrofuran, 0.15 g (0.43 mmol) 5-hydroxy-2-(morpholine-4-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester and 0.14 g (0.52 mmol) triphenylphosphine were added and the suspension cooled to 0° C. Then, 0.12 g (0.52 mmol) diisopropyl azodicarboxylate was added and the resulting solution stirred for 20 hours at room temperature. The solvent was evaporated and the residue flash-chromatographed on silica gel with ethyl acetate:methanol (9:1 v/v) as eluant to give 0.16 g (81%) the product as a colorless gum.

reactant | N-cyclopropyl-4-piperidinol | 0.5 mmol, 73 mg | C1(CC1)N1CCC(CC1)O | C8H15NO
reactant | 5-hydroxy-2-(morpholine-4-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester | 0.43 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)O)C(=O)N2CCOCC2 | C17H21N3O5
reactant | triphenylphosphine | 0.52 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.52 mmol, 0.12 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-(1-Cyclopropyl-piperidin-4-yloxy)-2-(morpholine-4-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester | 0.16 g, 81% | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OC2CCN(CC2)C2CC2)C(=O)N2CCOCC2 | C25H34N4O5
